US04264609
A recently published abstract ["Current Abstracts of Chemistry", Vol. 74, Issue 814, Item 285573, 1979] of a Polish publication [Nantkanomirski and Kaczmarek, Polish J. Pharmacol. Pharmacy 30(5), 707-12 (1978)] shows, inter alia, the reaction of 3-dimethylamino-2-(4-pyridinyl)acrolein [same as β-(dimethylamino)-α-(4-pyridinyl)acrolein] with malononitrile in the presence of sodium methoxide in methanol to produce 2-methoxy-5-(4-pyridinyl)nicotinonitrile.

reactant | 3-dimethylamino-2-(4-pyridinyl)acrolein | CN(C=C(C=O)C1=CC=NC=C1)C | C10H12N2O
reactant | malononitrile | C(CC#N)#N | C3H2N2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 2-methoxy-5-(4-pyridinyl)nicotinonitrile | COC1=C(C#N)C=C(C=N1)C1=CC=NC=C1 | C12H9N3O
